US08633173B2
2-(4-{4-[8-(2-Fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide was prepared from [8-(2-fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine (0.150 g, 0.359 mmol) and 2-chloro-N,N-dimethyl-acetamide (0.055 mL, 0.539 mmol) in a manner analogous to Example 313 to give product (0.075 g, 42%). MP=237-240° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.62 (s, 1H), 8.82 (d, 1H), 7.60 (m, 3H), 7.25 (m, 3H), 7.10 (m, 3H), 3.90 (s, 3H), 3.15 (s, 2H), 3.05 (s, 3H), 2.95 (m, 2H), 2.85 (s, 3H), 2.35 (m, 1H), 2.10 (m, 2H), 1.65 (m, 4H). MS=503 (MH)+.

reactant | [8-(2-fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-yl]-(4-piperidin-4-yl-phenyl)-amine | 0.359 mmol, 0.150 g | FC1=C(C=CC=C1OC)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCNCC2 | C24H24FN5O
reactant | 2-chloro-N,N-dimethyl-acetamide | 0.539 mmol, 0.055 mL | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(4-{4-[8-(2-Fluoro-3-methoxy-phenyl)-[1,2,4]-triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperidin-1-yl)-N,N-dimethyl-acetamide | FC1=C(C=CC=C1OC)C=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)C2CCN(CC2)CC(=O)N(C)C | C28H31FN6O2
